US03930949
500 g of 7-phenylacetamido-desacetoxycephalosporanic acid were dissolved in 8.3 liters of water and split completely over the course of 4 hours at 38°C, by addition of 220 g of carrier-bound penicillinacylase (according to Example C), analogously to Example 2; the 7-amino-desacetoxycephalosporanic acid formed was precipitated and dried.

reactant | 7-phenylacetamido-desacetoxycephalosporanic acid | 500 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)C(C3=CC=CC=C3)OC(=O)C)SC1)C(=O)O | C20H20N2O8S
solvent | water | 8.3 liters | O | H2O
product | 7-amino-desacetoxycephalosporanic acid | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
